US07060844B2
To a slurry of [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (100 mg, 0.32 mmol) in THF (4.0 ml) at room temperature was added 2.5M n-BuLi in hexane (13611), and the reaction was stirred for 10 minutes. After the reaction was cooled to 0° C., oxalyl chloride (163 μl, 0.32 mmol) was added. After stirring for 20 minutes, 4-(2-hydroxyethyl)morpholine (118 μl, 0.976 mmol) was added. The reaction was stirred for 5 minutes at 0° C., and then at room temperature for 20 minutes. The reaction was partitioned between EtOAc and saturated NaHCO3. The EtOAc layer was washed with brine, dried with anhydrous Na2SO4 and rotary evaporated to afford an orange oil. The orange oil was chromatographed through silica gel column, eluted with CHCl3, to give [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid 2-morpholin-4-yl-ethyl ester as a yellow foam (43 mg, 32%).

reactant | [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 0.32 mmol, 100 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CC(=O)O | C18H13NO4
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | oxalyl chloride | 0.32 mmol, 163 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-hydroxyethyl)morpholine | 0.976 mmol, 118 μl | OCCN1CCOCC1 | C6H13NO2
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid 2-morpholin-4-yl-ethyl ester | 43 mg, 32% | N1(CCOCC1)CCOC(CC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O)=O | C24H24N2O5
